US08283354B2
A mixture of 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol (200 mg, 0.6 mmol), THF (6.0 mL), and DMF (1 mL) was stirred under an N2 atmosphere. Triethylamine (0.166 mL, 1.2 mmol) was added, and the reaction was cooled in an ice bath. To this was added 1 M neopentyl chloroformate solution (89 μL in 600 μL THF, 0.6 mmol). After allowing the reaction mixture to warm to room temperature over a period of 30 minutes, CH2Cl2 was added to the reaction mixture, and it was washed once with water before it was dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 0-20% EtOAc in CH2Cl2/hexanes (1:1) gave neopentyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (222 mg, 94%). LC/MS: m/z 449 (M+H)+ at 2.73 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, acetic acid-d4) δ 8.42 (dd, J=8.1, 1.8 Hz, 1H), 8.20 (d, J=8.7 Hz, 1H), 7.57 (s, 1H), 7.40-7.29 (m, 3H), 6.92-6.89 (m, 2H), 4.11-3.92 (m, 3H), 3.78-3.61 (m, 3H), 3.33-3.28 (m, 1H), 3.23-3.10 (m, 2H), 2.49 (s, 3H), 2.16-2.08 (m, 1H), 1.83-1.75 (m, 1H), 0.89 (s, 9H).

reactant | 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.6 mmol, 200 mg | NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O
reactant | THF | 6.0 mL | C1CCOC1 | C4H8O
reactant | Triethylamine | 1.2 mmol, 0.166 mL | C(C)N(CC)CC | C6H15N
reactant | neopentyl chloroformate | 0.6 mmol, 1 M, 89 μL | ClC(=O)OCC(C)(C)C | C6H11ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | neopentyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 222 mg, 94% | C(C(C)(C)C)OC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H32N4O3
